US06162819
1-Benzyl-3-(5-hydroxymethyl-2-furyl)-5-trifluoromethylpyrazole:
3 g (9.36 mmol) of 1-benzyl-3-(5-formyl-2-furyl)-5-trifluoromethylpyrazole were dissolved in 80 ml of methanol, 0.35 g (9.36 mmol) of sodium borohydride were added in portions and the mixture was stirred at RT for 1 h. The mixture was subsequently concentrated, the residue was admixed with water and methylene chloride, the methylene chloride phase was separated off, dried and concentrated and the residue was chromatographed over silica gel using dichloromethane. This gave 1.6 g (53%) of the title compound.

reactant | 1-benzyl-3-(5-formyl-2-furyl)-5-trifluoromethylpyrazole | 9.36 mmol, 3 g | C(C1=CC=CC=C1)N1N=C(C=C1C(F)(F)F)C=1OC(=CC1)C=O | C16H11F3N2O2
reactant | sodium borohydride | 9.36 mmol, 0.35 g | [BH4-].[Na+]
solvent | methanol | 80 ml | CO | CH4O
product | 1-Benzyl-3-(5-hydroxymethyl-2-furyl)-5-trifluoromethylpyrazole | C(C1=CC=CC=C1)N1N=C(C=C1C(F)(F)F)C=1OC(=CC1)CO | C16H13F3N2O2
